* ============================================================
* 4th-Order Sallen-Key Butterworth Low-Pass Filter
* Author: Zaynab Mehraban
* Tool: Ngspice
* Description: Two cascaded 2nd-order Sallen-Key sections
*              implementing a Butterworth response with
*              fc = 10 kHz for audio signal conditioning.
* ============================================================

.title 4th-Order Sallen-Key Butterworth LPF - fc = 10 kHz

* --- Power Supply ---
Vpos vpos 0 DC 12
Vneg vneg 0 DC -12

* --- Input Signal ---
Vin input 0 AC 1 SIN(0 1 1k)

* ============================================================
* STAGE 1: 2nd-Order Sallen-Key (Q = 0.5412)
* Butterworth coefficients: a1 = 1.8478, b1 = 1.0000
* Component values calculated for fc = 10 kHz
* ============================================================
R1a input n1a 1.5k
R2a n1a n2a 1.5k
C1a n2a 0 10n
C2a n1a out1 5.6n

* Op-Amp (Stage 1) - Ideal VCVS model
* Unity-gain buffer configuration
E1 out1 0 0 n2a -200k
* Feedback path (unity gain)

* ============================================================
* STAGE 2: 2nd-Order Sallen-Key (Q = 1.3066)
* Butterworth coefficients: a2 = 0.7654, b2 = 1.0000
* ============================================================
R1b out1 n1b 1.5k
R2b n1b n2b 1.5k
C1b n2b 0 22n
C2b n1b output 2.7n

* Op-Amp (Stage 2) - Ideal VCVS model
E2 output 0 0 n2b -200k

* Output load
Rload output 0 100k

* ============================================================
* Analysis Commands
* ============================================================

* AC Analysis: 1 Hz to 10 MHz
.ac dec 200 1 10Meg

* Transient: mixed frequency input test
* (1 kHz passband + 50 kHz stopband)
Vin_test input_test 0 SIN(0 1 1k)
Vin_noise input_noise 0 SIN(0 0.5 50k)
Vmixed input_mixed 0 SIN(0 1 1k)

.tran 0.5u 2m

* ============================================================
* Measurements
* ============================================================
.measure AC gain_dc FIND vdb(output) AT=100
.measure AC gain_fc FIND vdb(output) AT=10k
.measure AC gain_2fc FIND vdb(output) AT=20k
.measure AC gain_10fc FIND vdb(output) AT=100k
.measure AC fc_actual WHEN vdb(output)=(gain_dc-3) CROSS=1

* ============================================================
* Control Block
* ============================================================
.control
  run

  * --- Magnitude Response ---
  plot vdb(output) title '4th-Order Butterworth LPF - Magnitude Response (dB)'
  
  * --- Phase Response ---
  plot vp(output) title '4th-Order Butterworth LPF - Phase Response'
  
  * --- Verify rolloff rate ---
  echo "========== Filter Performance =========="
  echo "Expected: -3 dB at 10 kHz, -80 dB/decade rolloff"
  print gain_dc gain_fc gain_2fc gain_10fc fc_actual
  
  * --- Group Delay ---
  let gd = -deriv(vp(output)) / 360.0
  plot gd title 'Group Delay vs Frequency'

  * --- Transient Response ---
  plot v(input) v(output) title 'Transient: Input vs Filtered Output'

  echo "========== Simulation Complete =========="
.endc

.end
